US04144248
Methyl α-methylthio(m-phenoxyphenyl)acetate (1.963 g) was dissolved in anhydrous dimethylformamide, and under ice cooling, 280 mg (65% content) of sodium hydride was added. The mixture was stirred for 10 minutes. Then, 0.60 ml of methyl iodide was added, and the mixture was stirred under ice cooling for 5 minutes and then at room temperature for 30 minutes. After adding an aqueous solution of ammonium chloride (500 mg/40 ml), the reaction mixture was extracted three times with 20 ml of diethyl ether, and washed three times with 10 ml of water. The product was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using hexane/benzene as an eluant to afford 1.930 g of methyl α-methylthio-α-(m-phenoxyphenyl)propionate as an oil in a yield of 94%. Distillation of this substance gave a fraction boiling at 147°-149° C./0.8 mmHg.

reactant | Methyl α-methylthio(m-phenoxyphenyl)acetate | 1.963 g | CSC(C(=O)OC)C1=CC(=CC=C1)OC1=CC=CC=C1 | C16H16O3S
reactant | sodium hydride | 280 mg | [H-].[Na+]
reactant | methyl iodide | 0.60 ml | CI | CH3I
reactant | ammonium chloride | 40 ml, 500 mg | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl α-methylthio-α-(m-phenoxyphenyl)propionate | 1.930 g, yield of 94% | CSC(C(=O)OC)(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C17H18O3S
